* Z:\home\aalmela\scm\git\utn\eaiii\2020\7_Mezcladores\ltspice\Draft3.asc
V1 i 0 PWL(0 -0.1 1 0.5)
B1 i 0 I={Ip} * (V(i)/{Vp}) * exp( ({Vp}-V(i)) /{Vp})
.tran 1
.param Ip = 1e-5
.param K=5
.param Vp = 0.1
.backanno
.end
